US07786165B2
3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid
To a solution of ethyl 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate (173 mg, 0.27 mmol) in a mixture of methanol (1 mL) and tetrahydrofuran (2 mL) was added 1 M aqueous sodium hydroxide solution (0.81 mL), and the mixture was stirred overnight at room temperature. The reaction mixture was neutralized with 1 M hydrochloric acid, and brine was added. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-ethyl acetate/methanol=9/1) to give the title compound (103 mg, yield 62%) as a yellow amorphous powder.

reactant | ethyl 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 0.27 mmol, 173 mg | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)OCC)F | C34H41FN2O7S
reactant | sodium hydroxide | 1 M, 0.81 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoic acid | 103 mg, yield 62% | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)O)F | C32H37FN2O7S
